US08304436B2
D2. Methyl 3-(3,4-diethoxyphenyl)-2,2-dimethyl-3-oxopropanoate
Prepared analogously as described for example D1 using methyl 2-methylproponate and 3,4-diethoxybenzoyl chloride as starting compounds.

reactant | methyl 2-methylproponate | CC(C(=O)OC)C | C5H10O2
reactant | 3,4-diethoxybenzoyl chloride | C(C)OC=1C=C(C(=O)Cl)C=CC1OCC | C11H13ClO3
product | Methyl 3-(3,4-diethoxyphenyl)-2,2-dimethyl-3-oxopropanoate | C(C)OC=1C=C(C=CC1OCC)C(C(C(=O)OC)(C)C)=O | C16H22O5
